US06121271
3-[2-Cyclopentyl-4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenoxysulfonyl]-benzoic acid
The title compound was prepared according to the procedure in Example 1, step 9, using 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenol (0.300 g, 0.805 mmol) and commercial 3-chlorosulphonylbenzoic acid (0.600 g, 2.71 mmol). Purification on 2% H3PO4 /MeOH treated Biotage KP-Sil, eluting with 20% EtOAc/hexane followed by trituration with hexane gave 0.154 g (20%) of the title compound as a white solid, mp 120-128° C. 1H NMR (DMSO-d6) δ 1.23-1.36 (m, 2 H), 1.42-1.52 (m, 6 H), 1.55-1.69 (m, 3 H), 2.42 (s, 3 H), 2.96 (quintet, 1 H), 7.23-7.29 (m, 3 H), 7.33 (d, 1 H), 7.39 (ddd, 1 H), 7.47 (ddd, 1 H), 7.90 (t, 1 H), 7.97 (d, 1 H), 8.23 (dd, 1 H), 8.27-8.29 (m, 1 H), 8.37-8.39 (dt, 1 H), 8.50 (s, 1 H), 13.6-13.9 (br s, 1 H). IR (KBr) 3400, 2950, 1700, 1380 and 1190 cm-1. mass spectrum (-ESI) m/z 555 (M-H). Anal. Calcd. for C32H28,O5S2.0.65H2O: C, 67.62; H, 5.20; N, 0.00. Found: C, 67.60; H, 4.90; N, 0.09.

reactant | 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenol | 0.805 mmol, 0.300 g | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(C=C2)O)C2CCCC2)C | C25H24OS
reactant | 3-chlorosulphonylbenzoic acid | 2.71 mmol, 0.600 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
product | 3-[2-Cyclopentyl-4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenoxysulfonyl]-benzoic acid | 0.154 g, 20% | C1(CCCC1)C1=C(OS(=O)(=O)C=2C=C(C(=O)O)C=CC2)C=CC(=C1)C1=C2C=CC=CC2=CC=2SC(=C(C21)C)C | C32H28O5S2
